US07504412B2
2-Methyl-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid
Production Example 14 was repeated except that 4-(trifluoromethyl)phenylboronic acid and 4-bromo-3-methylbenzenecarboxylic acid were used, to provide the title compound as white solid.

reactant | 4-(trifluoromethyl)phenylboronic acid | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 4-bromo-3-methylbenzenecarboxylic acid | BrC1=C(C=C(C=C1)C(=O)O)C | C8H7BrO2
product | 2-Methyl-4′-(trifluoromethyl)[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3O2
